US07982036B2
To a stirring solution of methyl 3-(6-chloropyrimidin-4-ylamino)benzoate (1.0 g, 3.8 mmol) and 4-phenoxy aniline (0.703 g, 3.8 mmol) in ethanol (5 mL) was added acetic acid (0.22 mL) and the reaction mixture was heated at 100° C. for 48 h. The reaction mixture was cooled, ethanol was removed under reduced pressure and the residue was dissolved in ethyl acetate (50 mL). It was washed with NaHCO3 solution (5 mL) and brine (5 mL), was dried over Na2SO4 and was concentrated under reduced pressure. The residue was purified by column chromatography (SiO2, 60-120, chloroform/methanol, 9/1) to yield methyl 3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)benzoate (1 g, 66%) as an off-white solid.

reactant | methyl 3-(6-chloropyrimidin-4-ylamino)benzoate | 3.8 mmol, 1.0 g | ClC1=CC(=NC=N1)NC=1C=C(C(=O)OC)C=CC1 | C12H10ClN3O2
reactant | 4-phenoxy aniline | 3.8 mmol, 0.703 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | acetic acid | 0.22 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | methyl 3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)benzoate | 1 g, 66% | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=CC(=NC=N1)NC=1C=C(C(=O)OC)C=CC1 | C24H20N4O3
